* PTLRX-SFQDC — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a q
* Junctions: 10 total
*   B1: area=1.6, IC=160uA
*   B2: area=1.62, IC=162uA
*   B3: area=2.76, IC=276uA
*   B4: area=1.34, IC=134uA
*   B5: area=1.98, IC=198uA
*   B6: area=1.82, IC=182uA
*   B7: area=3.15, IC=315uA
*   B8: area=1.65, IC=165uA
*   B9: area=1.22, IC=122uA
*   B10: area=2.18, IC=218uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/PTLRX_SFQDC.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_PTLRX-SFQDC a q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param ICreceive=1.6
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36
.param B1=1.6
.param B2=1.62
.param B3=2.76
.param B4=1.34
.param B5=1.98
.param B6=1.82
.param B7=3.15
.param B8=1.65
.param B9=1.22
.param B10=2.18
.param IB1=229u
.param IB2=292u
.param IB3=167u
.param IB4=212u
.param IB5=64u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param L1=Lptl
.param L2=2.3453p
.param L3=3.9596p
.param L4=4.5142p
.param L5=0.7362p
.param L6=0.9663p
.param L7=5.6790p
.param L8=0.8679p
.param L9=3.2739p
.param L10=0.2245p
.param L11=0.695p
.param L12=3.036p
.param L13=1.6165p
.param L14=1.510p64
.param LR1=0.7066p
.param R1=5.74
.param LP1=LP
.param LP2=LP
.param LP3=LP
.param LP5=LP
.param LP7=LP
.param LP9=LP
.param LP10=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet+LP
.param LRB8=(RB8/Rsheet)*Lsheet
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 5 6 jjmit area=B2
B3 7 8 jjmit area=B3
B4 11 12 jjmit area=B4
B5 12 13 jjmit area=B5
B6 16 17 jjmit area=B6
B7 17 18 jjmit area=B7
B8 20 21 jjmit area=B8
B9 23 24 jjmit area=B9
B10 27 28 jjmit area=B10
IB1 0 4 pwl(0 0 5p IB1)
IB2 0 9 pwl(0 0 5p IB2)
IB3 0 14 pwl(0 0 5p IB3)
IB4 0 22 pwl(0 0 5p IB4)
IB5 0 26 pwl(0 0 5p IB5)
LB1 4 3 6.848E-013
LB2 9 7 4.296E-012
LB3 14 12 2.614E-012
LB4 22 21 2.738E-012
LB5 26 25 4.096E-012
L1 a 1 1.455E-012
L2 1 3 2.346E-012
L3 3 5 3.959E-012
L4 5 7 4.522E-012
L5 7 10 7.386E-013
L6 11 10 9.705E-013
L7 12 15 5.626E-012
L8 10 16 8.718E-013
L9 15 17 3.248E-012
L10 15 20 2.239E-013
L11 21 23 6.903E-013
L12 23 25 3.044E-012
L13 25 27 1.603E-012
L14 27 q 1.635E-012
LR1 19 15 7.057E-013
R1 0 19 R1
LP1 2 0 4.229E-013
LP2 6 0 4.418E-013
LP3 8 0 4.758E-013
LP5 13 0 4.434E-013
LP7 18 0 6.22E-013
LP9 24 0 3.836E-013
LP10 28 0 3.18E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 5 105 RB2
LRB2 105 0 LRB2151RB3 7 107 RB3
LRB3 107 0 LRB3
RB4 11 111 RB4
LRB4 111 12 LRB4
RB5 12 112 RB5
LRB5 112 0 LRB5
RB6 16 116 RB6
LRB6 116 17 LRB6
RB7 17 117 RB7
LRB7 117 0 LRB7
RB8 20 120 RB8
LRB8 120 21 LRB8
RB9 23 123 RB9
LRB9 123 0 LRB9
RB10 27 127 RB10
LRB10 127 0 LRB10
.ends
