* XNOR — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 19 total
*   B1: area=2.5, IC=250uA
*   B2: area=2.22, IC=222uA
*   B3: area=2.12, IC=212uA
*   B4: area=2.5, IC=250uA
*   B5: area=2.22, IC=222uA
*   B6: area=2.12, IC=212uA
*   B7: area=1.39, IC=139uA
*   B8: area=1.57, IC=157uA
*   B9: area=2.5, IC=250uA
*   B10: area=1.28, IC=128uA
*   B11: area=2.43, IC=243uA
*   B12: area=0.77, IC=77uA
*   B13: area=0.72, IC=72uA
*   B14: area=1.34, IC=134uA
*   B15: area=1.63, IC=163uA
*   B16: area=2.15, IC=215uA
*   B17: area=1.05, IC=105uA
*   B18: area=0.83, IC=83uA
*   B19: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/XNOR.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_XNOR a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=2.22
.param B3=2.12
.param B4=2.5
.param B5=2.22
.param B6=2.12
.param B7=1.39
.param B8=1.57
.param B9=2.5
.param B10=1.28
.param B11=2.43
.param B12=0.77
.param B13=0.72
.param B14=1.34
.param B15=1.63
.param B16=2.15
.param B17=1.05
.param B18=0.83
.param B19=2.5
.param IB1=175u
.param IB2=175u
.param IB3=207u
.param IB4=175u
.param IB5=193u
.param IB6=147u
.param IB7=122u
.param IB8=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param LB7=LB
.param LB8=LB
.param L1=1.4696p
.param L2=2.7700p
.param L3=3.6981p
.param L4=1.4696p
.param L5=2.7700p
.param L6=3.6981p
.param L7=6.0060p
.param L8=1.5890p
.param L9=1.8231p
.param L10=1.6294p
.param L11=4.5825p
.param L12=3.3983p
.param L13=1.1575p
.param L14=3.0580p
.param L15=2.1812p
.param L16=4.5604p
.param L17=2.9745p
.param L18=0.8577p
.param L19=3.5636p
.param L20=1.5943p
.param LP1=LP
.param LP2=LP
.param LP4=LP
.param LP5=LP
.param LP8=LP
.param LP9=LP
.param LP11=LP
.param LP15=LP
.param LP16=LP
.param LP18=LP
.param LP19=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param RB12=B0Rs/B12
.param RB13=B0Rs/B13
.param RB14=B0Rs/B14
.param RB15=B0Rs/B15
.param RB16=B0Rs/B16
.param RB17=B0Rs/B17
.param RB18=B0Rs/B18
.param RB19=B0Rs/B19
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet
.param LRB11=(RB11/Rsheet)*Lsheet+LP
.param LRB12=(RB12/Rsheet)*Lsheet
.param LRB13=(RB13/Rsheet)*Lsheet
.param LRB14=(RB14/Rsheet)*Lsheet
.param LRB15=(RB15/Rsheet)*Lsheet+LP
.param LRB16=(RB16/Rsheet)*Lsheet+LP
.param LRB17=(RB17/Rsheet)*Lsheet
.param LRB18=(RB18/Rsheet)*Lsheet+LP
.param LRB19=(RB19/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 4 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 11 12 jjmit area=B5
B6 11 13 jjmit area=B6
B7 7 15 jjmit area=B7
B8 16 17 jjmit area=B8
B9 18 19 jjmit area=B9
B10 22 16 jjmit area=B10
B11 23 24 jjmit area=B11
B12 26 27 jjmit area=B12
B13 29 30 jjmit area=B13
B14 32 31 jjmit area=B14
B15 33 34 jjmit area=B15
B16 36 37 jjmit area=B16
B17 32 38 jjmit area=B17
B18 30 39 jjmit area=B18
B19 40 41 jjmit area=B19
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 10 pwl(0 0 5p IB2)
IB3 0 14 pwl(0 0 5p IB3)
IB4 0 20 pwl(0 0 5p IB4)
IB5 0 25 pwl(0 0 5p IB5)
IB6 0 28 pwl(0 0 5p IB6)
IB7 0 35 pwl(0 0 5p IB7)
IB8 0 42 pwl(0 0 5p IB8)
LB1 3 1 5.929E-013
LB2 10 8 1.279E-012
LB3 14 7 1.737E-012
LB4 20 18 2.846E-012
LB5 25 23 3.286E-012
LB6 27 28 2.4E-012
LB7 35 33 1.996E-012
LB8 42 40 2.415E-012
L1 a 1 1.471E-012
L2 1 4 2.745E-012
L3 6 7 3.693E-012
L4 b 8 1.476E-012
L5 8 11 2.749E-012
L6 7 13 3.671E-012
L7 15 16 5.95E-012
L8 clk 18 1.58E-012
L9 18 21 1.818E-012
L10 21 22 1.634E-012
L11 16 23 4.569E-012
L12 23 26 3.384E-012
L13 27 29 1.168E-012
L14 31 27 3.042E-012
L15 21 33 2.198E-012
L16 33 36 4.555E-012
L17 36 32 2.964E-0121
L18 38 30 8.576E-013
L19 30 40 3.531E-012
L20 40 q 1.583E-012
LP1 2 0 4.616E-013
LP2 5 0 4.744E-013
LP4 9 0 3.882E-013
LP5 12 0 3.984E-013
LP8 17 0 4.778E-013
LP9 19 0 3.834E-013
LP11 24 0 4.104E-013
LP15 34 0 5.341E-013
LP16 37 0 3.884E-013
LP18 39 0 4.944E-013
LP19 41 0 3.606E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 4 106 RB3
LRB3 106 6 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 11 113 RB6
LRB6 113 13 LRB6
RB7 7 115 RB7
LRB7 115 15 LRB7
RB8 16 116 RB8
LRB8 116 0 LRB8
RB9 18 118 RB9
LRB9 118 0 LRB9
RB10 22 122 RB10
LRB10 122 16 LRB10
RB11 23 123 RB11
LRB11 123 0 LRB11
RB12 26 126 RB12
LRB12 126 27 LRB12
RB13 29 129 RB13
LRB13 129 30 LRB13
RB14 32 131 RB14
LRB14 131 31 LRB14
RB15 33 133 RB15
LRB15 133 0 LRB15
RB16 36 136 RB16
LRB16 136 0 LRB16
RB17 32 138 RB17
LRB17 138 38 LRB17
RB18 30 130 RB18
LRB18 130 0 LRB18
RB19 40 140 RB19
LRB19 140 0 LRB19
.ends
