* XOR — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 11 total
*   B1: area=2.5, IC=250uA
*   B2: area=2.0, IC=200uA
*   B3: area=2.02, IC=202uA
*   B4: area=2.5, IC=250uA
*   B5: area=2.0, IC=200uA
*   B6: area=2.02, IC=202uA
*   B7: area=1.96, IC=196uA
*   B8: area=1.65, IC=165uA
*   B9: area=2.5, IC=250uA
*   B10: area=1.46, IC=146uA
*   B11: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/XOR.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_XOR a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=2.0
.param B3=2.02
.param B4=2.5
.param B5=2.0
.param B6=2.02
.param B7=1.96
.param B8=1.65
.param B9=2.5
.param B10=1.46
.param B11=2.5
.param IB1=175u
.param IB2=175u
.param IB3=273u
.param IB4=175u
.param IB5=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param L1=1.5740p
.param L2=3.1407p
.param L3=4.7381p
.param L4=1.5740p
.param L5=3.1407p
.param L6=4.7381p
.param L7=4.7751p
.param L8=1.1983p
.param L9=3.2191p
.param L10=3.7711p
.param L11=1.4703p
.param LP1=LP
.param LP2=LP
.param LP4=LP
.param LP5=LP
.param LP8=LP
.param LP9=LP
.param LP11=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet
.param LRB11=(RB11/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 4 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 11 12 jjmit area=B5
B6 11 13 jjmit area=B6
B7 7 15 jjmit area=B7
B8 16 17 jjmit area=B8
B9 18 19 jjmit area=B9
B10 21 16 jjmit area=B10
B11 22 23 jjmit area=B11
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 10 pwl(0 0 5p IB2)
IB3 0 14 pwl(0 0 5p IB3)
IB4 0 20 pwl(0 0 5p IB4)
IB5 0 24 pwl(0 0 5p IB5)
LB1 3 1 8.314E-013
LB2 10 8 9.179E-013
LB3 14 7 3.234E-012
LB4 20 18 1.047E-012
LB5 24 22 1.004E-012
L1 a 1 1.57E-012
L2 1 4 3.128E-012
L3 6 7 4.746E-012
L4 b 8 1.578E-012
L5 8 11 3.145E-012
L6 7 13 4.763E-012
L7 15 16 4.74E-012
L8 clk 18 1.196E-012
L9 18 21 3.224E-012
L10 16 22 3.775E-012
L11 22 q 1.459E-012
LP1 2 0 4.215E-013
LP2 5 0 4.657E-013
LP4 9 0 3.32E-013
LP5 12 0 3.87E-013
LP8 17 0 4.698E-013
LP9 19 0 3.611E-013
LP11 23 0 4.394E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 4 106 RB3
LRB3 106 6 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 11 113 RB6
LRB6 113 13 LRB6
RB7 7 115 RB7
LRB7 115 15 LRB7
RB8 16 116 RB8
LRB8 116 0 LRB8
RB9 18 118 RB9
LRB9 118 0 LRB9
RB10 21 121 RB10
LRB10 121 16 LRB10
RB11 22 122 RB11
LRB11 122 0 LRB11
.ends
